US05891871
Methyl 4,5-Methylenedioxy-2-(4-nitrobenzoyl)phenylacetate
To a solution of methyl 3,4-methylenedioxyphenylacetate (5.4 g, 28 mmol) in ClCH2CH2Cl (100 mL) was added 4-nitrobenzoic acid (7.2 g, 43 mmol) and P2O5 (18 g) at room temperature under argon. The mixture was refluxed for 28 h, cooled to room temperature, then cold water was added slowly. The resulting mixture was carefully neutralized with solid K2CO3, and extracted with 1:1 hexane/EtOAc (2×300 mL). The combined extracts were washed with water and brine, and dried over Na2SO4. The solvent was removed in vacuo and the resulting residue was separated by chromatography (3:1 hexane/EtOAc) to afford the title compound as a yellow solid (4.7 g, 14 mmol, 50%). 1H NMR (CDCl3) 8.32 (d, 2H, J=8.5), 7.92 (d, 2H, J=8.5), 6.85 (s, 1H), 6.81 (s, 1H), 6.07 (s, 2H), 3.88 (s, 2H), 3.63 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 28 mmol, 5.4 g | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | 4-nitrobenzoic acid | 43 mmol, 7.2 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | P2O5 | 18 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | ClCH2CH2Cl | 100 mL | C(CCl)Cl | C2H4Cl2
solvent | water | O | H2O
product | Methyl 4,5-Methylenedioxy-2-(4-nitrobenzoyl)phenylacetate | 14 mmol, 4.7 g, 50% | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H13NO7
